US09284286B2
To a solution of acetic acid [3-(4-fluorophenyl)-3-oxo-propyl]ester (2.0 g, 9.52 mmol) in dry dichloromethane (40 ml) are added 1,2-ethanedithiol (1.79 g, 19.0 mmol) and boron trifluoride diethyl ether complex (0.68 g, 4.76 mmol) at 0° C. The resulting reaction mixture is stirred at RT for 16 h. After completion of reaction, the mixture is neutralized with 10M aqueous sodium hydroxide and extracted with DCM (3×100 ml). The combined organic layers are washed with water (100 ml), brine (100 ml), dried over anhydrous sodium sulfate and evaporated in vacuo to get the crude, which is purified by column chromatography (silica gel, 5% ethyl acetate/hexane) to yield acetic acid 2-[2-(4-fluorophenyl)-[1,3]dithiolan-2-yl]-ethyl ester (1.80 g, 6.29 mmol, 66%).

reactant | acetic acid [3-(4-fluorophenyl)-3-oxo-propyl]ester | 9.52 mmol, 2.0 g | FC1=CC=C(C=C1)C(CCOC(C)=O)=O | C11H11FO3
reactant | 1,2-ethanedithiol | 19.0 mmol, 1.79 g | C(CS)S | C2H6S2
reactant | sodium hydroxide | 10M | [OH-].[Na+]
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | acetic acid 2-[2-(4-fluorophenyl)-[1,3]dithiolan-2-yl]-ethyl ester | 6.29 mmol, 1.80 g, 66% | FC1=CC=C(C=C1)C1(SCCS1)CCOC(C)=O | C13H15FO2S2
